US09388176B2
N-(4-Isopropyl-phenyl)-2-(2-methylsulfanyl-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl)-isonicotinamide
In a manner similar to that described for Example 138, 2-(methylsulfanyl)-5,6,7,8-tetrahydropyrido[4,3-d]-pyrimidine and 2-bromo-N-(4-isopropyl-phenyl)-isonicotinamide were converted to the title compound.

reactant | 2-(methylsulfanyl)-5,6,7,8-tetrahydropyrido[4,3-d]-pyrimidine | CSC=1N=CC2=C(N1)CCNC2 | C8H11N3S
reactant | 2-bromo-N-(4-isopropyl-phenyl)-isonicotinamide | BrC=1C=C(C(=O)NC2=CC=C(C=C2)C(C)C)C=CN1 | C15H15BrN2O
product | N-(4-Isopropyl-phenyl)-2-(2-methylsulfanyl-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl)-isonicotinamide | C(C)(C)C1=CC=C(C=C1)NC(C1=CC(=NC=C1)N1CC2=C(N=C(N=C2)SC)CC1)=O | C23H25N5OS
